US08048884B2
Preparation 27: N-{2-[4-(2-Chloro-pyridin-3-yl)-piperazin-1-yl]-ethyl}-4-fluoro-N-methyl-benzenesulfonamide
Add triethylamine (0.850 mL, 6.103 mmol) to a stirring solution of {2-[4-(2-chloro-pyridin-3-yl)-piperazin-1-yl]-ethyl}-methyl-amine hydrochloride salt (2.000 g, 6.103 mmol) in dichloromethane (10 mL). Stir at room temperature for 5 min. Add 4-fluoro-benzenesulfonyl chloride (0.356 g, 1.831 mmol) at room temperature. Stir at room temperature for 18 hr. Dilute with dichloromethane and saturated aqueous sodium bicarbonate. Separate the phases and extract the aqueous phase with dichloromethane. Combine the organic phases, dry over sodium sulfate, filter, and concentrate. Purify the resulting material by silica gel chromatography eluting with hexanes:acetone 1:1 to afford the title preparation (0.525 g, 83% yield). MS ES: m/z=413 [M+H]+.

reactant | triethylamine | 6.103 mmol, 0.850 mL | C(C)N(CC)CC | C6H15N
reactant | {2-[4-(2-chloro-pyridin-3-yl)-piperazin-1-yl]-ethyl}-methyl-amine hydrochloride salt | 6.103 mmol, 2.000 g | Cl.ClC1=NC=CC=C1N1CCN(CC1)CCNC
reactant | 4-fluoro-benzenesulfonyl chloride | 1.831 mmol, 0.356 g | FC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClFO2S
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | N-{2-[4-(2-Chloro-pyridin-3-yl)-piperazin-1-yl]-ethyl}-4-fluoro-N-methyl-benzenesulfonamide | 83% yield | ClC1=NC=CC=C1N1CCN(CC1)CCN(S(=O)(=O)C1=CC=C(C=C1)F)C | C18H22ClFN4O2S
